US06355653B1
A suspension of 85.0 g (0.32 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 700 ml chloroform was treated with 320 ml 1N aqueous sodium hydroxide. 100 ml of a saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The extracts were combined and dried with sodium sulfate and the solvents were distilled off under reduced pressure. 17.8 g (0.078 Mol) of the resulting colorless oil was stirred together with 9.15 g (0.065 mol) 5-methyl-furan-2-carboxylic acid hydrazide in 115 ml chloroform for 24 hours at 50° C. The resulting precipitate was filtered off and dried. 17.3 g of 5-methyl-furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide was obtained as white crystals. Mp.: 219-220° C.

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.32 mol, 85.0 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydroxide | 1N, 320 ml | [OH-].[Na+]
reactant | sodiumbicarbonate | 100 ml | C([O-])(O)=O.[Na+]
reactant | 5-methyl-furan-2-carboxylic acid hydrazide | 0.065 mol, 9.15 g | CC1=CC=C(O1)C(=O)NN | C6H8N2O2
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 115 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-methyl-furan-2-carboxylic acid (1-amino-2-benzenesulfonyl-ethylidene)-hydrazide | 17.3 g | NC(CS(=O)(=O)C1=CC=CC=C1)=NNC(=O)C=1OC(=CC1)C | C14H15N3O4S
